US06660744B1
To a mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.4 g, 0.0011 mol) in isopropanol (40 mL) was added tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (0.27 g, 0.0013 mol) at room temperature under an atmosphere of nitrogen. The mixture was stirred at 80° C. for three and a half hours. Additional tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (0.13 g, 0.00061 mol) was added and the mixture was stirred at 80° C. for seven hours. Furthermore, tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate (0.13 g, 0.00061 mol) was added and the mixture was stirred at 60° C. for 18 hours, then 80° C. for eight hours. The solvent was removed under reduced pressure. The residue was suspended in water (50 mL) and the aqueous phase was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with water (1×50 mL) and brine (1×50 mL) and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using methanol/dichloromethane (5:95) followed by methanol/dichloromethane (10:90) as mobile phase to yield tert-butyl 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-hydroxy-1-piperidinecarboxylate (0.243 g, 0.000425 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.0011 mol, 0.4 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 0.0013 mol, 0.27 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 0.00061 mol, 0.13 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
reactant | tert-butyl 1-oxa-6-azaspiro[2.5]octane-6-carboxylate | 0.00061 mol, 0.13 g | O1CC12CCN(CC2)C(=O)OC(C)(C)C | C11H19NO3
solvent | isopropanol | 40 mL | C(C)(C)O | C3H8O
product | tert-butyl 4-(3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanylmethyl)-4-hydroxy-1-piperidinecarboxylate | 0.000425 mol, 0.243 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)CC2(CCN(CC2)C(=O)OC(C)(C)C)O | C31H37N7O4
